US06649656B1
Synthesis of 2-(2-(4-(4-(3-(tert-butoxycarbonylamino)benzyloxy)phenoxy)-phenyl)acetylamino)benzoic acid methyl ester
2-(2-(4-(4-Hydroxyphenoxy)phenyl)acetylamino)benzoic acid methyl ester obtained by the Reference Example 24 (315 mg, 0.83 mmol) was dissolved in 20 ml of methylene chloride-THF mixture (1:1 v/v), added with 3-(tert-butoxycarbonylamino)benzyl alcohol (465 mg, 2.1 mmol), 1,1′-azobis(N,N′-dimethylformamide) (359 mg, 2.08 mmol) and tri-n-butyl phosphine (520 ml, 2.1 mmol) and the reaction mixture was stirred over a night. After completing the reaction, the solvent was removed under reduced pressure and the obtained crude residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate 75:25 v/v) to obtain the subject compound (404 mg, 0.693 mmol) in the form of a colorless gummy substance. The result of 1H-NMR was consistent with the above structure.

reactant | 2-(2-(4-(4-Hydroxyphenoxy)phenyl)acetylamino)benzoic acid methyl ester | COC(C1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)O)=O)=O | C22H19NO5
reactant | 3-(tert-butoxycarbonylamino)benzyl alcohol | 2.1 mmol, 465 mg | C(C)(C)(C)OC(=O)NC=1C=C(CO)C=CC1 | C12H17NO3
reactant | 1,1′-azobis(N,N′-dimethylformamide) | 2.08 mmol, 359 mg | N(=NC(=O)N(C)C)C(=O)N(C)C | C6H12N4O2
reactant | tri-n-butyl phosphine | 2.1 mmol, 520 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | methylene chloride THF | 20 ml | C(Cl)Cl.C1CCOC1
product | 2-(2-(4-(4-(3-(tert-butoxycarbonylamino)benzyloxy)phenoxy)-phenyl)acetylamino)benzoic acid methyl ester | 0.693 mmol, 404 mg, Yield: 83% | COC(C1=C(C=CC=C1)NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)OCC1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C34H34N2O7
